US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid {2-[(4-chloro-phenyl)-methyl-carbamoyl]-ethyl}-amide
4-[4-(2-Aminoethyl)anilino]-N-{3-[4-chloro(methyl)anilino]-3-oxopropyl}-1-piperidinecarboxamide formate (0.78 g, 1.55 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane according to Procedure G to provide the title compound (0.27 g, 0.3 mmol)

reactant | 4-[4-(2-Aminoethyl)anilino]-N-{3-[4-chloro(methyl)anilino]-3-oxopropyl}-1-piperidinecarboxamide formate | 1.55 mmol, 0.78 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCC(=O)N(C2=CC=C(C=C2)Cl)C)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid {2-[(4-chloro-phenyl)-methyl-carbamoyl]-ethyl}-amide | 0.3 mmol, 0.27 g | ClC1=CC=C(C=C1)N(C(=O)CCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O)C | C33H42ClN5O5
